US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-aminophenyl)carboxamide [70]
{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-nitrophenyl)carboxamide (100 mg) was dissolved in N,N-dimethylformamide/ethyl acetate (9 ml/5 ml), 10% palladium-carbon (69 mg) was added, and the admixture was stirred at room temperature under hydrogen for 22 hours. The reaction mixture was filtered using Celite. The filtrate was then distilled under reduced pressure to remove the solvents, and the resultant residue was purified by column chromatography on silica gel eluting chloroform/acetone to obtain 85 mg of the title compound (yield: 91%).

reactant | {4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-nitrophenyl)carboxamide | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C24H19N3O6
solvent | N,N-dimethylformamide ethyl acetate | 9 ml | CN(C=O)C.C(C)(=O)OCC
catalyst | palladium-carbon | 69 mg | [C].[Pd]
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-aminophenyl)carboxamide | 85 mg, yield: 91% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)N | C24H21N3O4
